US06924276B2
Sponge nickel (0.6 g water wet) was added to a solution of 5-methyl-4-nitro-thiophene-2-carboxylic acid benzyl ester (0.93 g, 3.4 mmol), prepared as described in Step 1 above, in tetrahydrofuran (50 mL), and the mixture was hydrogenated at room temperature under hydrogen atmosphere at a starting pressure of 50 psi. After a reaction time of 2.4 hours, the pressure was released and the mixture filtered. The slurry was rinsed with tetrahydrofuran, and the filtrate was stripped of solvent under reduced pressure, leaving 0.9 g of 5-methyl-4-amino-thiophene-2-carboxylic acid benzyl ester as an oil.

reactant | 5-methyl-4-nitro-thiophene-2-carboxylic acid benzyl ester | 3.4 mmol, 0.93 g | C(C1=CC=CC=C1)OC(=O)C=1SC(=C(C1)[N+](=O)[O-])C | C13H11NO4S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | nickel | 0.6 g | [Ni] | Ni
product | 5-methyl-4-amino-thiophene-2-carboxylic acid benzyl ester | 0.9 g | C(C1=CC=CC=C1)OC(=O)C=1SC(=C(C1)N)C | C13H13NO2S
